* Z:\celera\projects\Simplis\playbrian\Regression\verification\sim_FORCEdutEXTERNALS.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map FORCEDATA 26
.node_map VSIN 25
.node_map VSQR 22
.node_map ISQR 18
.node_map VTRI 24
.node_map ITRI 20
.node_map VPWL 21
.node_map VPUL 23
.node_map IPWL 17
.node_map IPUL 19
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 400u 0

.globalvar REF=1.0
.globalvar VIN=3.3
.globalvar tdext_khz=1000
.globalvar  celera_i2c_frequency_KHz=100
.globalvar TEMP=25
.globalvar fdatachanges=3
.globalvar fdatas=0
.globalvar fdata1=1
.globalvar fdatat1=10
.globalvar fdata2=0
.globalvar fdatat2=20
.globalvar fdata3=1
.globalvar fdatat3=30
.globalvar fdatabchanges=3
.globalvar fdatabs=3
.globalvar fdatab1=1
.globalvar fdatabt1=5
.globalvar fdatab2=2
.globalvar fdatabt2=15
.globalvar fdatab3=3
.globalvar fdatabt3=25

X$BS 17 dftprobeModel3 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='BS' dftprobe_description='BS' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6

.PRINT V(#VPWL)
.GRAPH :#VPWL curveLabel= VPWL nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT I(
.GRAPH EXTERNALS#ISIN curveLabel="I(EXTERNALS-ISIN)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT I(
.GRAPH EXTERNALS#IPWL curveLabel="I(EXTERNALS-IPWL)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT I(
.GRAPH EXTERNALS#ISQR curveLabel="I(EXTERNALS-ISQR)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT I(
.GRAPH EXTERNALS#IPUL curveLabel="I(EXTERNALS-IPUL)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT I(
.GRAPH EXTERNALS#ITRI curveLabel="I(EXTERNALS-ITRI)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT V(#VSQR)
.GRAPH :#VSQR curveLabel= VSQR nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
.PRINT V(#VPUL)
.GRAPH :#VPUL curveLabel= VPUL nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
.PRINT V(#VTRI)
.GRAPH :#VTRI curveLabel= VTRI nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe4  
.PRINT V(#VSIN)
.GRAPH :#VSIN curveLabel= VSIN nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe5  
.PRINT V(#FORCEDATA)
.GRAPH :#FORCEDATA curveLabel= DATAMAP nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe6  
.PRINT V(#ISQR)
.GRAPH :#ISQR curveLabel= ISQR nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe7  
.PRINT V(#IPUL)
.GRAPH :#IPUL curveLabel= IPUL nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe8  
.PRINT V(#ITRI)
.GRAPH :#ITRI curveLabel= ITRI nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe9  
X$U2 16 celera vars: layout='no' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playbrian\Regression\design\ALLforceexternals0EXTERNALS.sxcmp


.end
